US06936612B2
To a solution 4-{6-[8-cyclopentyl-6-(1-ethoxy-vinyl)-5-methyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino]-pyridin-3-yl}-[1,4]diazepane-1-carboxylic acid tert-butyl ester (116 mg, 0.20 mmol) in chloroform (5 mL) was added hydrogen chloride (2 M ethereal solution, 5.0 mL, 10.0 mmol). The reaction mixture was stirred at RT for 12 h. The solvents were evaporated and the residue was dissolved in ethanol. The ethanol was evaporated to give 6-acetyl-8-cyclopentyl-2-(5-[1,4]diazepan-1-yl-pyridin-2-ylamino)-5-methyl-8H-pyrido[2,3-d]pyrimidin-7-one hydrochloride salt (47 mg, 0.10 mmol). MS (APCI+) 432, 462 (M+1, 100); 1H NMR δ (400 MHz, DMSO-d6) 9.19 (br, 2H), 8.99 (s, 1H), 7.91 (s, 1H), 7.78-7.75 (m, 2H), 5.88-5.80 (m, 1H), 3.80-3.77 (m, 3H), 3.25 (br, 3H), 3.16 (br, 2H), 2.44 (s, 3H), 2.34 (s, 3H), 2.49-2.18 (m, 2H), 2.12-2.10 (m, 2H), 1.93 (br, 2H), 1.81-1.78 (m, 2H), 1.61-1.58 (m, 2H); Anal. Calc'd for C25H31N7O2, 2.80 HCl, 0.45 C3H8O2: C, 53.35; H, 6.25; N, 16.25. Found: C, 52.96; H, 6.62; N, 15.95.

reactant | 4-{6-[8-cyclopentyl-6-(1-ethoxy-vinyl)-5-methyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino]-pyridin-3-yl}-[1,4]diazepane-1-carboxylic acid tert-butyl ester | 0.20 mmol, 116 mg | C(C)(C)(C)OC(=O)N1CCN(CCC1)C=1C=NC(=CC1)NC=1N=CC2=C(N1)N(C(C(=C2C)C(=C)OCC)=O)C2CCCC2 | C32H43N7O4
reactant | hydrogen chloride | 10.0 mmol, 2 M, 5.0 mL | Cl | ClH
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
product | 6-acetyl-8-cyclopentyl-2-(5-[1,4]diazepan-1-yl-pyridin-2-ylamino)-5-methyl-8H-pyrido[2,3-d]pyrimidin-7-one hydrochloride salt | 0.10 mmol, 47 mg | Cl.C(C)(=O)C1=C(C2=C(N=C(N=C2)NC2=NC=C(C=C2)N2CCNCCC2)N(C1=O)C1CCCC1)C | InChI=1S/C25H31N7O2.ClH/c1-16-20-15-28-25(29-21-9-8-19(14-27-21)31-12-5-10-26-11-13-31)30-23(20)32(18-6-3-4-7-18)24(34)22(16)17(2)33;/h8-9,14-15,18,26H,3-7,10-13H2,1-2H3,(H,27,28,29,30);1H
